US06599942B1
A mixture of the title A compound, 5-(2,6-dimethyl-4-nitrophenoxy)-2-(2-methoxyethoxymethoxy)benzoic acid 2-methoxyethoxymethyl ester (3.2 g, 6.68 mmol) and palladium on activated carbon (10 wt. %; 320 mg) in 50 mL of EtOAc is stirred under hydrogen atmosphere (H2, 1 atm) for 3 h. The catalyst is removed by vacuum filtration through celite, washed with EtOAc, and the combined filtrate and washings are concentrated and dried under vacuum to give 5-(4-amino-2,6-dimethylphenoxy)-2-(2-methoxyethoxymethoxy)benzoic acid 2-methoxyethoxymethyl ester: NMR (CDCl3) 2.07 (s, 6H), 3.37 (s, 3H), 3.40 (s, 3H), 3.52-3.62 (m, 4H), 3.83-3.92 (m, 4H), 5.26 (s, 2H), 5.52 (s, 2H), 6.60 (s, 2H), 6.80 (dd, 1H, J=8.3, 3), 7.13 (d, 1H, J=8.3), 7.24 (d, 1H, J=3).

reactant | 5-(2,6-dimethyl-4-nitrophenoxy)-2-(2-methoxyethoxymethoxy)benzoic acid 2-methoxyethoxymethyl ester | 6.68 mmol, 3.2 g | COCCOCOC(C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)OCOCCOC)=O | C23H29NO10
catalyst | palladium on activated carbon | 320 mg | [Pd] | Pd
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 5-(4-amino-2,6-dimethylphenoxy)-2-(2-methoxyethoxymethoxy)benzoic acid 2-methoxyethoxymethyl ester | COCCOCOC(C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)N)C)OCOCCOC)=O | C23H31NO8
